US07435823B2
Step (b) Preparation of 7-hydroxyquinoline-4-carboxylic acid
To a cooled (0° C.) solution of methyl 7-methoxyquinoline-4-carboxylate (378 mg, 1.74 mmol) in CH2Cl2, BBr3 (9 mL, excess) was added and the reaction mixture stirred and warmed to RT. After 4 days, the mixture was poured into ice and the yellow solid collected as the title compound.

reactant | methyl 7-methoxyquinoline-4-carboxylate | 1.74 mmol, 378 mg | COC1=CC=C2C(=CC=NC2=C1)C(=O)OC | C12H11NO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | BBr3 | 9 mL | B(Br)(Br)Br | BBr3
product | 7-hydroxyquinoline-4-carboxylic acid | OC1=CC=C2C(=CC=NC2=C1)C(=O)O | C10H7NO3
